US09259470B2
Imidazole (96.0 mg, 1.42 mmol) and tert-butylchlorodimethylsilane (107 mg, 0.710 mmol) were added to a solution of 1-(4-chloro-3-fluorophenyl)butane-1,3-diol (130 mg, 0.590 mmol) in DCM (10 mL) The resulting mixture was stirred at room temperature overnight. The reaction mixture was then diluted with DCM (15 mL), washed with brine and water, dried over anhydrous Na2SO4, and concentrated. The residue was purified by silica gel column chromatography eluting with ethyl acetate/petroleum ether (1:4) to afford 3-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)butan-1-ol (130 mg, 66% yield) as oil.

reactant | Imidazole | 1.42 mmol, 96.0 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butylchlorodimethylsilane | 0.710 mmol, 107 mg | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | 1-(4-chloro-3-fluorophenyl)butane-1,3-diol | 0.590 mmol, 130 mg | ClC1=C(C=C(C=C1)C(CC(C)O)O)F | C10H12ClFO2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 3-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)butan-1-ol | 130 mg, 66% yield | [Si](C)(C)(C(C)(C)C)OC(CC(O)C1=CC(=C(C=C1)Cl)F)C | C16H26ClFO2Si
